US07355069B2
N-(2,4-difluorobenzyl)-N-heptylamine (0.64 g, 2.65 mmol) was dissolved in DMF (10 ml), 3-(4-{[2-(methoxycarbonyl)benzyl]thio}phenyl)propanoic acid (0.80 g, 2.41 mmol) was added and the mixture was cooled to 0° C. N-[(1H-1,2,3-benzotriazol-1-yloxy)-(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate (0.85 g, 2.65 mmol) and diisopropylethylamine (0.65 g, 5.05 mmol) was added. The mixture was allowed to warm to room temperature and stirred overnight. EtOAc (15 ml) was added and the organic phase was washed with two portions of sodium hydrogencarbonate (aq, 10 ml). EtOAc was removed by evaporation and the crude was purified by preparative HPLC (started with acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min). The product containing fractions were pooled and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4). The solvent was removed by evaporation and gave 1.10 gram of methyl 2-{[(4-{3-[(2,4-difluorobenzyl)(heptyl)amino]-3-oxopropyl}phenyl)thio]methyl}benzoate (yield 82.2%).

reactant | N-(2,4-difluorobenzyl)-N-heptylamine | 2.65 mmol, 0.64 g | FC1=C(CNCCCCCCC)C=CC(=C1)F | C14H21F2N
reactant | 3-(4-{[2-(methoxycarbonyl)benzyl]thio}phenyl)propanoic acid | 2.41 mmol, 0.80 g | COC(=O)C1=C(CSC2=CC=C(C=C2)CCC(=O)O)C=CC=C1 | C18H18O4S
reactant | N-[(1H-1,2,3-benzotriazol-1-yloxy)-(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate | 2.65 mmol, 0.85 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 5.05 mmol, 0.65 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
product | methyl 2-{[(4-{3-[(2,4-difluorobenzyl)(heptyl)amino]-3-oxopropyl}phenyl)thio]methyl}benzoate | 1.10 gram, yield 82.2% | FC1=C(CN(C(CCC2=CC=C(C=C2)SCC2=C(C(=O)OC)C=CC=C2)=O)CCCCCCC)C=CC(=C1)F | C32H37F2NO3S
